US06150373
A mixture of 200 mg (0.52 mmol) of 3-(2,5-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 218 mg (1.04 mmol) of 4-(2-(diethylamino)ethoxy)aniline was heated at 180° C. for 30 minutes and then cooled. The residue was subjected to column chromatography on silica gel eluted with dichloromethane/methanol/acetic acid/water in a ratio of 240:24:3:2. Product containing fractions were combined, evaporated and the residue re-evaporated with toluene. The residue was dissolved in dichloromethane (40 ml), washed with saturated aqueous sodium bicarbonate (40 ml), dried over magnesium sulfate, filtered and evaporated to give 15 mg (6%) of 3-(2,5-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 138° C. [Mass spectrum (ESI) MH+ =514].

reactant | 3-(2,5-dichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.52 mmol, 200 mg | ClC1=C(C=C(C=C1)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H12Cl2N4O3S
reactant | 4-(2-(diethylamino)ethoxy)aniline | 1.04 mmol, 218 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-(2,5-dichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 15 mg, 6% | ClC1=C(C=C(C=C1)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C25H28Cl2N6O2
